US09034880B2
Preparation of 5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)ethyl)-N-methylpyridin-2-amine (Compound 441)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, N-methyl-5-vinylpyridin-2-amine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | N-methyl-5-vinylpyridin-2-amine | CNC1=NC=C(C=C1)C=C | C8H10N2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)ethyl)-N-methylpyridin-2-amine | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=CC(=NC2)NC)CC1 | C21H26N4
